US05972951
1-Acetyl-8-bromo-7-hydroxy-2,3,4,5-tetrahydro-1H-benzazepine
1-Acetyl-7-hydroxy-2,3,4,5-tetrahydro-1H-benzazepine (D24, 2.81 g, 14 mmol) was stirred in glacial AcOH (50 ml) as N-bromosuccinimide (2.69 g, 15 mmol) was added portionwise over 20 min. The mixture was stirred for 30 min, diluted with ethyl acetate (500 ml), washed with water, K2CO3 solution and brine, dried (Na2SO4) and evaporated to give a tan solid, shown by NMR and TLC to be a mixture of dibromo and mono-bromo isomers. Chromatography on silica, eluting with 0-25% ethyl acetate/dichloromethane, yielded pure title compound (1.22 g, 31%) as a cream solid.

reactant | 1-Acetyl-7-hydroxy-2,3,4,5-tetrahydro-1H-benzazepine | 14 mmol, 2.81 g | C(C)(=O)N1CCCCC2=C1C=CC(=C2)O | C12H15NO2
reactant | N-bromosuccinimide | 15 mmol, 2.69 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 1-Acetyl-8-bromo-7-hydroxy-2,3,4,5-tetrahydro-1H-benzazepine | 1.22 g, 31% | C(C)(=O)N1CCCCC2=C1C=C(C(=C2)O)Br | C12H14BrNO2
